US05585485
7-[[(2-amino-4-thiazolyl)-2-oxoacetyl]amino]-3-acetoxymethylceph-3-em-4-carboxylic Acid
5.44 g of 7-amino-3-acetoxymethylceph-3-em-4-carboxylic acid are suspended under a nitrogen atmosphere in 50 ml of dry dichloromethane, and mixed with 5.4 ml of N,O-bis(trimethylsilyl)acetamide. The preparation is stirred at room temperature until a clear solution is present, and then cooled to -15°. 8.4 g of 2-(2-amino-4-thiazolyl)-2-oxothioacetic-acid-S-benzothiazol-2-ylester are added, and stirred for two hours at -15° and then for two hours at 0°. The solvent is carefully drawn off in a rotary evaporator, and the oily residue is rubbed with 50 ml of ethanol, whereby the title compound precipitates. 6.3 g are obtained in the form of a yellow powder.

reactant | 7-amino-3-acetoxymethylceph-3-em-4-carboxylic acid | 5.44 g | NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C10H12N2O5S
reactant | N,O-bis(trimethylsilyl)acetamide | 5.4 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 2-(2-amino-4-thiazolyl)-2-oxothioacetic-acid-S-benzothiazol-2-ylester | 8.4 g | S1C(=NC2=C1C=CC=C2)SC(C(=O)C=2N=C(SC2)N)=O | C12H7N3O2S3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-[[(2-amino-4-thiazolyl)-2-oxoacetyl]amino]-3-acetoxymethylceph-3-em-4-carboxylic Acid | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=O | C15H14N4O7S2
